US08084620B2
Step 2 A solution of crude 4-(2-fluorophenyl)-7-formyl-9H-carbazole-1-carboxamide (25.2 mg, 0.076 mmol) in methanol (2 mL) at 0° C. was treated with 30% aqueous hydrogen peroxide (0.039 mL, 0.379 mmol) and sulfuric acid (0.020 mL, 0.379 mmol). After 1.5 h, additional hydrogen peroxide (0.100 mL) and sulfuric acid (0.050 mL) were added and the mixture was stirred at rt overnight. After 16 h, 1 M aqueous sodium hydroxide (2 mL) was added and the mixture was stirred for 1 h. The pH was adjusted to ca. 4 and the organic solvent was removed under vacuum. The aqueous residue was diluted with water and the precipitate was collected by filtration, washed with water and dried. The residue was purified by preparative HPLC to provide 4-(2-fluorophenyl)-7-hydroxy-9H-carbazole-1-carboxamide as tan solid after lypholization (5.1 mg, 21%). 1H NMR (400 MHz, methanol-d4) δ 7.81 (1H, d, J=7.70 Hz), 7.45-7.64 (2H, m), 7.21-7.42 (2H, m), 7.03 (1H, d, J=7.92 Hz), 6.90-6.99 (2H, m), 6.45 (1H, dd, J=8.58, 2.20 Hz). Mass spectrum m/z 321.0 (M+H)+.

reactant | 4-(2-fluorophenyl)-7-formyl-9H-carbazole-1-carboxamide | 0.076 mmol, 25.2 mg | FC1=C(C=CC=C1)C1=CC=C(C=2NC3=CC(=CC=C3C12)C=O)C(=O)N | C20H13FN2O2
reactant | hydrogen peroxide | 0.379 mmol, 0.039 mL | OO | H2O2
reactant | sulfuric acid | 0.379 mmol, 0.020 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 0.100 mL | OO | H2O2
reactant | sulfuric acid | 0.050 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 4-(2-fluorophenyl)-7-hydroxy-9H-carbazole-1-carboxamide | FC1=C(C=CC=C1)C1=CC=C(C=2NC3=CC(=CC=C3C12)O)C(=O)N | C19H13FN2O2
